US09260451B2
Production of [1]benzoselenopheno[3,2-b][1]benzothiophene (Compound 2-112)
Except that 3-(phenylsulfenyl)-2-iodobenzo[b]thiophene was replaced with 3-(phenylselenenyl)-2-iodobenzo[b]thiophene, the reaction was implemented in the same way as in Example 3. Purification was implemented by column chromatography (silica gel, CHCl3, Rf: 0.9), so that a yellow solid was produced (yield: 85%).

reactant | 3-(phenylsulfenyl)-2-iodobenzo[b]thiophene | C1(=CC=CC=C1)SC=1C2=C(SC1I)C=CC=C2 | C14H9IS2
reactant | 3-(phenylselenenyl)-2-iodobenzo[b]thiophene | C1(=CC=CC=C1)[Se]C=1C2=C(SC1I)C=CC=C2 | C14H9ISSe
product | [1]benzoselenopheno[3,2-b][1]benzothiophene | yield: 85% | C1=CC=CC2=C1[Se]C1=C2SC2=C1C=CC=C2 | C14H8SSe
